US08198287B2
To a solution of 0.34 g (0.84 mmol) of (+/−)(3-bromo-4-oxo-2-pyrimidin-4-yl-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepin-10-yl)-carbamic acid ethyl ester in 2 mL of acetic acid was added 0.78 mL (4.21 mmol) of a solution of hydrobromic acid (5.7N in acetic acid). The reaction was stirred at 100° C. for 3 h. The solvent was evaporated and an acid-basic work-up gave 65 mg (33%) of 10-amino-3-bromo-2-pyrimidin-4-yl-7,8,9,10-tetrahydro-6H-pyrimido[1,2-a]azepin-4-one as an orange oil. The compound was used as such in the next step.

reactant | (+/−)(3-bromo-4-oxo-2-pyrimidin-4-yl-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepin-10-yl)-carbamic acid ethyl ester | 0.84 mmol, 0.34 g | C(C)OC(NC1C=2N(CCCC1)C(C(=C(N2)C2=NC=NC=C2)Br)=O)=O | C16H18BrN5O3
reactant | hydrobromic acid | 5.7N | Br | BrH
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 10-amino-3-bromo-2-pyrimidin-4-yl-7,8,9,10-tetrahydro-6H-pyrimido[1,2-a]azepin-4-one | 65 mg, 33% | NC1C=2N(CCCC1)C(C(=C(N2)C2=NC=NC=C2)Br)=O | C13H14BrN5O
